Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
Cl[CH2:1][CH2:2][CH2:3][CH2:4][CH2:5][CH2:6][n:7]1[c:8]([O:9][CH3:10])[n:11][c:12]2[c:13]([NH2:14])[n:15][c:16]([O:17][CH2:18][CH2:19][CH2:20][CH3:21])[n:22][c:23]12.[CH3:24][C:25]([CH3:26])([CH3:27])[N:28]1[CH2:29][CH2:30][NH:31][CH2:32][CH2:33]1>>[CH2:1]([CH2:2][CH2:3][CH2:4][CH2:5][CH2:6][n:7]1[c:8]([O:9][CH3:10])[n:11][c:12]2[c:13]([NH2:14])[n:15][c:16]([O:17][CH2:18][CH2:19][CH2:20][CH3:21])[n:22][c:23]12)[N:31]1[CH2:30][CH2:29][N:28]([C:25]([CH3:24])([CH3:26])[CH3:27])[CH2:33][CH2:32]1,[Cl:101][CH2:1][CH2:2][CH2:3][CH2:4][CH2:5][CH2:6][n:7]1[c:8]([O:9][CH3:10])[n:11][c:12]2[c:13]([NH2:14])[n:15][c:16]([O:17][CH2:18][CH2:19][CH2:20][CH3:21])[n:22][c:23]12.[CH3:24][C:25]([CH3:26])([CH3:27])[N:28]1[CH2:29][CH2:30][NH:31][CH2:32][CH2:33]1>>[CH2:1]([CH2:2][CH2:3][CH2:4][CH2:5][CH2:6][n:7]1[c:8]([O:9][CH3:10])[n:11][c:12]2[c:13]([NH2:14])[n:15][c:16]([O:17][CH2:18][CH2:19][CH2:20][CH3:21])[n:22][c:23]12)[N:31]1[CH2:30][CH2:29][N:28]([C:25]([CH3:24])([CH3:26])[CH3:27])[CH2:33][CH2:32]1,SN2,"[(31, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CC(C)(C)OC(=O)O[C:6]([O:5][C:2]([CH3:1])([CH3:3])[CH3:4])=[O:7].[CH3:8][O:9][C:10](=[O:11])[c:12]1[cH:13][cH:14][c:15]2[cH:16][cH:17][nH:18][c:19]2[cH:20]1>>[CH3:1][C:2]([CH3:3])([CH3:4])[O:5][C:6](=[O:7])[n:18]1[cH:17][cH:16][c:15]2[cH:14][cH:13][c:12]([C:10]([O:9][CH3:8])=[O:11])[cH:20][c:19]12,CC(C)(C)[O:202][C:201](=O)[O:101][C:6]([O:5][C:2]([CH3:1])([CH3:3])[CH3:4])=[O:7].[CH3:8][O:9][C:10](=[O:11])[c:12]1[cH:13][cH:14][c:15]2[cH:16][cH:17][nH:18][c:19]2[cH:20]1>>[CH3:1][C:2]([CH3:3])([CH3:4])[O:5][C:6](=[O:7])[n:18]1[cH:17][cH:16][c:15]2[cH:14][cH:13][c:12]([C:10]([O:9][CH3:8])=[O:11])[cH:20][c:19]12,nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(18, 6), ([6, 7], 7), (7, [7, 6]), ([6, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[CH2:1][c:2]1[c:3]([CH3:4])[o:5][c:6](-[c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[n:13]1.[CH3:14][C:15](=[O:16])[O:17][c:18]1[cH:19][cH:20][cH:21][c:22]([OH:23])[cH:24]1>>[CH2:1]([c:2]1[c:3]([CH3:4])[o:5][c:6](-[c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[n:13]1)[O:23][c:22]1[cH:21][cH:20][cH:19][c:18]([O:17][C:15]([CH3:14])=[O:16])[cH:24]1,[Cl:101][CH2:1][c:2]1[c:3]([CH3:4])[o:5][c:6](-[c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[n:13]1.[CH3:14][C:15](=[O:16])[O:17][c:18]1[cH:19][cH:20][cH:21][c:22]([OH:23])[cH:24]1.[H-:301].[Na+]>>[CH2:1]([c:2]1[c:3]([CH3:4])[o:5][c:6](-[c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[n:13]1)[O:23][c:22]1[cH:21][cH:20][cH:19][c:18]([O:17][C:15]([CH3:14])=[O:16])[cH:24]1,SN2_alcohol(thiol),"[(301, 23.1), ([23.1, 23], 23), (23, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CC(C)(C)OC(=O)[NH:1][C:2]([CH3:3])([CH3:4])[C:5](=[O:6])[N:7]1[CH2:8][CH2:9][c:10]2[cH:11][c:12]([O:13][CH2:14][c:15]3[cH:16][c:17](-[c:18]4[cH:19][cH:20][cH:21][cH:22][cH:23]4)[c:24]([C:25]([F:26])([F:27])[F:28])[s:29]3)[cH:30][cH:31][c:32]21>>[NH2:1][C:2]([CH3:3])([CH3:4])[C:5](=[O:6])[N:7]1[CH2:8][CH2:9][c:10]2[cH:11][c:12]([O:13][CH2:14][c:15]3[cH:16][c:17](-[c:18]4[cH:19][cH:20][cH:21][cH:22][cH:23]4)[c:24]([C:25]([F:26])([F:27])[F:28])[s:29]3)[cH:30][cH:31][c:32]21,[CH3:202][C:203]([CH3:204])([CH3:205])[O:206][C:101](=[O:201])[NH:1][C:2]([CH3:3])([CH3:4])[C:5](=[O:6])[N:7]1[CH2:8][CH2:9][c:10]2[cH:11][c:12]([O:13][CH2:14][c:15]3[cH:16][c:17](-[c:18]4[cH:19][cH:20][cH:21][cH:22][cH:23]4)[c:24]([C:25]([F:26])([F:27])[F:28])[s:29]3)[cH:30][cH:31][c:32]21.[H+:301]>>[NH2:1][C:2]([CH3:3])([CH3:4])[C:5](=[O:6])[N:7]1[CH2:8][CH2:9][c:10]2[cH:11][c:12]([O:13][CH2:14][c:15]3[cH:16][c:17](-[c:18]4[cH:19][cH:20][cH:21][cH:22][cH:23]4)[c:24]([C:25]([F:26])([F:27])[F:28])[s:29]3)[cH:30][cH:31][c:32]21,Boc_deprotection,"[(201, 301), ([203, 206], [206, 101]), ([101, 201], 201), (1, 201.1), ([201.1, 201], 201), (201, [201, 101]), ([101, 1], 1), ([202.1, 202], [202, 203])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
F[c:1]1[cH:2][c:3]([CH3:4])[c:5]([N+:6](=[O:7])[O-:8])[cH:9][cH:10]1.[NH2:11][C:12]1([CH2:13][OH:14])[CH2:15][CH2:16][CH2:17][CH2:18]1>>[c:1]1([NH:11][C:12]2([CH2:13][OH:14])[CH2:15][CH2:16][CH2:17][CH2:18]2)[cH:2][c:3]([CH3:4])[c:5]([N+:6](=[O:7])[O-:8])[cH:9][cH:10]1,[F:101][c:1]1[cH:2][c:3]([CH3:4])[c:5]([N+:6](=[O:7])[OH:8])[cH:9][cH:10]1.[NH2:11][C:12]1([CH2:13][OH:14])[CH2:15][CH2:16][CH2:17][CH2:18]1>>[c:1]1([NH:11][C:12]2([CH2:13][OH:14])[CH2:15][CH2:16][CH2:17][CH2:18]2)[cH:2][c:3]([CH3:4])[c:5]([N+:6](=[O:7])[OH:8])[cH:9][cH:10]1,SNAr(para),"[(11, 1), ([1, 10], [10, 9]), ([9, 5], [5, 6]), ([6, 7], 7), (7, [7, 6]), ([6, 5], [5, 9]), ([9, 10], [10, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
